US07226942B2
Part I: 3-Benzyloxycarbonylamino-1-carboethoxymethylene-1,2,3,4-tetrahydronaphthalene
To a solution of triethyl phosphonoacetate (0.202 mL) in ethanol (2 mL) stirring at 0° C. under nitrogen was added a solution of sodium ethoxide in ethanol (21% by weight, 0.379 mL). After 1 h, a solution of 3-benzyloxycarbonylamino-1-oxo-1,2,3,4-tetrahydronaphthalene (100 mg) in ethanol (1 mL) was added. Upon completion of addition, the reaction mixture was stirred for 12 h and allowed to warm to room temperature. The reaction mixture was then quenched with 1.0 M aqueous hydrochloric acid solution and the ethanol was removed under reduced pressure. Water was added and the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and evaporated under vacuum to yield a residue. The residue was purified by reverse phase preparative HPLC (trifluoroacetic acid containing solvents were used) to obtain the title compound (55 mg) as a 2.7:1 mixture of the olefin isomers, which were separable but were combined for use in the next step.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 3-benzyloxycarbonylamino-1-oxo-1,2,3,4-tetrahydronaphthalene | 100 mg | C(C1=CC=CC=C1)OC(=O)NC1CC(C2=CC=CC=C2C1)=O | C18H17NO3
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | ethanol | 0.379 mL | C(C)O | C2H6O
reactant | ethanol | 1 mL | C(C)O | C2H6O
product | 3-Benzyloxycarbonylamino-1-carboethoxymethylene-1,2,3,4-tetrahydronaphthalene | 55 mg | C(C1=CC=CC=C1)OC(=O)NC1CC(C2=CC=CC=C2C1)=CC(=O)OCC | C22H23NO4
